US04036979
Preparation of 4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea
A mixture of 50 grams of 4,5,6,7-tetrahydrobenzo-[b]thiophen-4-amine hydrochloride (about 45 grams real, based on 90% purity) in 100 ml. of water is stirred at about 15° C., and a solution of 23.1 grams of potassium cyanate in 100 ml. of water is added dropwise. After completion of the addition, the mixture is warmed slowly to 70° C. to 75° C. and held for an hour. The mixture is cooled, and the white solid is collected by filtration and washed with water. The solid is air-dried, pulverized, and washed with acetonitrile. On drying, this gives 37.3 grams of crude product, which on treatment with about 1200 ml. of hot acetone gives 11.45 grams, melting point 200° C. to 204° C. of the title compound.

reactant | 4,5,6,7-tetrahydrobenzo-[b]thiophen-4-amine hydrochloride | 50 grams | Cl.S1C2=C(C=C1)C(CCC2)N
reactant | potassium cyanate | 23.1 grams | [O-]C#N.[K+]
solvent | water | O | H2O
product | 4,5,6,7-tetrahydrobenzo[b]thien-4-ylurea | 11.45 grams | S1C2=C(C=C1)C(CCC2)NC(=O)N | C9H12N2OS
